US07858621B2
Step 1: 3-[2-(Pyridin-3-yloxy)-4-trifluoromethyl-phenyl]-acrylic acid
3-Hydroxypyridine (69.1 mg) and sodiumhydride (65 mg, 1.6 mmol) were added in THF. 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (156 mg, 0.620 mmol) was added the reaction mixture. The reaction mixture was purified to yield the title compound (15 mg) after purification by column chromatography (Hex/EtOAc=1/4).

reactant | 3-Hydroxypyridine | 69.1 mg | OC=1C=NC=CC1 | C5H5NO
reactant | sodiumhydride | 1.6 mmol, 65 mg | [H-].[Na+]
reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.620 mmol, 156 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | THF | C1CCOC1 | C4H8O
product | 3-[2-(Pyridin-3-yloxy)-4-trifluoromethyl-phenyl]-acrylic acid | 15 mg | N1=CC(=CC=C1)OC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C15H10F3NO3
